US04001313
In a 200-ml autoclave were placed 34 grams (0.11 mole) of anhydrous calcium 4-tertiarybutylbenzene sulfonate, 9.6 grams (0.24 mole) of sodium amide and 120 ml of liquid ammonia in the same manner as in Example 1. The resultant mixture was heated at 140° C for 8 hours. The reaction pressure in the autoclave was 123 atm. during the reaction. After the ammonia was removed, 10 ml of water was added to the reaction mixture for hydrolysis. Thereafter the product was treated in the same manner as in Example 1, whereby 13.2 grams of 4-tertiarybutyl aniline boiling at 114° to 115° C/10 mm Hg was obtained. Yield was 80.6%.

reactant | calcium 4-tertiarybutylbenzene sulfonate | 0.11 mole, 34 grams | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)[O-].[Ca+2].C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | sodium amide | 0.24 mole, 9.6 grams | [NH2-].[Na+]
reactant | ammonia | N | H3N
product | 4-tertiarybutyl aniline | 13.2 grams, Yield was 80.6% | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
